US03975524
1-(1-Oxido-thiomorpholino-3-piperazino-5-fluoro-isoquinoline was prepared analogous to Example 12 from 1-thiomorpholino-3-piperazino-5-fluoro-isoquinoline by oxidation with hydrogen peroxide in dilute sulfuric acid. M.p. 213°-215°C (from n-propanol/petroleum ether). Yield: 31% of theory.

reactant | 1-thiomorpholino-3-piperazino-5-fluoro-isoquinoline | S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)F)N1CCNCC1 | C17H21FN4S
reactant | hydrogen peroxide | OO | H2O2
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-Oxido-thiomorpholino-3-piperazino-5-fluoro-isoquinoline | Yield: 31% | O=S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)F)N1CCNCC1 | C17H21FN4OS
